US07820683B2
(2R)—N-methyl-2-[(4-{[1-(pyridin-2-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanamide
Using the same procedure as in Example 5, methyl (2R)-2-[(4-{[1-(pyridin-2-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanoate (250 mg, 0.55 mmol) was reacted with methylamine to give the title compound as a beige solid (213 mg, 86%); NMR Spectrum 1.65 (d, 3H), 2.67 (d, 3H), 5.16 (q, 1H), 5.77 (s, 2H), 6.96 (d, 1H), 7.00 (d, 1H), 7.29 (m, 1H), 7.36 (d, 1H), 7.72 (m, 4H), 8.17 (s, 1H), 8.38 (m, 1H), 8.53 (m, 3H), 10.68 (br s, 1H); Mass spectrum MH+ 454.

reactant | methyl (2R)-2-[(4-{[1-(pyridin-2-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanoate | 0.55 mmol, 250 mg | N1=C(C=CC=C1)CN1N=CC2=CC(=CC=C12)NC1=NC=NC2=CC=CC(=C12)O[C@@H](C(=O)OC)C | C25H22N6O3
reactant | methylamine | CN | CH5N
product | (2R)—N-methyl-2-[(4-{[1-(pyridin-2-ylmethyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]propanamide | 213 mg, 86% | CNC([C@@H](C)OC1=C2C(=NC=NC2=CC=C1)NC=1C=C2C=NN(C2=CC1)CC1=NC=CC=C1)=O | C25H23N7O2
